US04038414
4.9 g (0.017 mol) of 1-[2-allyl-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane are heated for 3 hours with a solution of 1.57 ml (0.018 mol) of isopropylamine in 100 ml of isopropanol to 80° C. under reflux. The mixture is then evaporated under reduced pressure and the resulting crude base is crystallised from acetone-ether. 1-[2-Allyl-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylamino-propane, of melting point 128°-129° C. is obtained.

reactant | 1-[2-allyl-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.017 mol, 4.9 g | C(C=C)C1=C(OCC2CO2)C=CC(=C1)C=CNC(=O)OC | C16H19NO4
reactant | isopropylamine | 0.018 mol, 1.57 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[2-Allyl-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylamino-propane | C(C=C)C1=C(OCC(CNC(C)C)O)C=CC(=C1)C=CNC(=O)OC | C19H28N2O4
